US07622583B2
4-tert-Butyl-N-[5-chloro-2-(6-cyano-pyridine-3-carbonyl)-pyridin-3-yl]-benzenesulfonamide
4-tert-Butyl-N-[5-chloro-2-(6-cyano-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-benzenesulfonamide (15 mg, 0.030 mmol) was dissolved in 4N HCl (500 μL) and dioxane (1 mL). The reaction was then stirred at 90° C. for 12 hours. The solvent was removed under reduced pressure and the crude solid was purified by preparatory TLC (1:4 EtOAc/hexanes) to give 5 mg (0.01 mmol, 40% yield) of the desired product as a white solid. MS calc'd for C22H20ClN4O3S (MH+): expected 455.1, found 455.0.

reactant | 4-tert-Butyl-N-[5-chloro-2-(6-cyano-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-benzenesulfonamide | 0.030 mmol, 15 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)C=1C=NC(=CC1)C#N | C24H23ClN4O4S
solvent | HCl | 4N, 500 μL | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 4-tert-Butyl-N-[5-chloro-2-(6-cyano-pyridine-3-carbonyl)-pyridin-3-yl]-benzenesulfonamide | 0.01 mmol, 5 mg, 40% yield | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)C=1C=NC(=CC1)C#N | C22H19ClN4O3S
